US05700809
7-Benzyloxyisoquinoline
To a solution of 7-hydroxyisoquinoline (prepared by the method of R. B. Woodward and W. D. Doering, J. Am. Chem. Soc., 1945, 67, 860) (1.45 g, 10 mmol) in DMF (20 ml) was added sodium hydride (60% dispersion in oil, 0.4 g, 10 mmol) portionwise. After stirring for 30 minutes, benzyl bromide (1.2 ml, 10 mmol) was added and the reaction mixture stirred for 2 h. The reaction mixture was poured into water and extracted with diethyl ether (3×100ml). The ether extracts were combined, washed with 2N sodium hydroxide solution (2×50 ml), brine (50 ml), dried over magnesium sulphate, filtered and evaporated under reduced pressure to give the title compound (1.6 g, 68%); δH (CDCl3) 5.21 (2H, s, OCH2), 7.30-7.51 (7H, m, ArH), 7.59 (1H, d, J 8.3 Hz, ArH), 7.75 (1H, d, J 13 Hz, ArH), 8.42 (1H, d, J 8 Hz, ArH), and 9.14 (1H, s, ArH).

reactant | 7-hydroxyisoquinoline | OC1=CC=C2C=CN=CC2=C1 | C9H7NO
reactant | sodium hydride | 10 mmol, 0.4 g | [H-].[Na+]
reactant | benzyl bromide | 10 mmol, 1.2 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 7-Benzyloxyisoquinoline | 1.6 g, 68% | C(C1=CC=CC=C1)OC1=CC=C2C=CN=CC2=C1 | C16H13NO
